US05767285
(2-Acetylphenoxy)butanoic acid, ethyl ester (500 mg, 2.00 mmol) is dissolved in 3 mL of methanol/water (3:2) and treated with 828 mg (5.99 mmol) of potassium carbonate according to the procedure described for Example 4 to give 412 mg (93%) of (2-acetylphenoxy)butanoic acid as a white powder. The 1H NMR (300 MHz, CDCl3) is consistent with the desired product; IR (KBr) 1710, 1670, 1590 cm-1 ; MS m/e calculated for C12H15O4 : 223.0970, found 223.0971.

reactant | (2-Acetylphenoxy)butanoic acid, ethyl ester | 2.00 mmol, 500 mg | C(C)(=O)C1=C(OC(C(=O)OCC)CC)C=CC=C1 | C14H18O4
reactant | potassium carbonate | 5.99 mmol, 828 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol water | 3 mL | CO.O
product | (2-acetylphenoxy)butanoic acid | 412 mg, 93% | C(C)(=O)C1=C(OC(C(=O)O)CC)C=CC=C1 | C12H14O4
